US08735390B2
Zinc chloride (3.6 eq, 1.17 wt, 52.7 g) in tetrahydrofuran (5 vols, 225 ml) is cooled to 0 to 5° C. A solution of the ethyl oxazole-5-carboxylate (1.1 eq, 0.37 wt, 18.1 g, corrected for 92 wt % assay) in tetrahydrofuran (5 vols, 225 ml) is added to the vessel. The suspension is cooled to −10° C. (+/−5° C.) under a nitrogen atmosphere and a 1M solution of bis-(trimethylsilyl)-lithiumamide in tetrahydrofuran (1.80 eq, 4.30 vols, 193 ml) is added over 15 minutes maintaining the temperature at −10° C. (+/−5° C.). The resulting solution is stirred under a nitrogen atmosphere at −10° C. (+/−5° C.) for 1 hour. To the solution is added 6-chloro-4-iodo-1-(phenylsulfonyl)-1H-indazole (1.0 eq, 1.0 wt, 45.0 g) and tetrakis triphenylphosphine palladium (0.03 eq, 0.083 wt, 3.73 g) (the mixture is degassed with vacuum/nitrogen 3 times) and then heated to 60° C. (+/−3° C.) for at least 6 hours. The reaction is then checked by HPLC for completion. The reaction solution is cooled to 0° C. (+/−3° C.) and a solution of 25% w/w diisobutylaluminium hydride in toluene (4.0 eq, 6.4 vols, 288 ml) is added maintaining the temperature at <5° C. The resulting reaction solution is then stirred at 0° C. (+/−3° C.) for at least 1 hour. The reaction is then checked by HPLC (generic) for completion. The reaction mixture is added portion wise to a solution of citric acid (4.0 eq, 2.0 wt, 90 g) in water (10 vols, 450 ml) at 0° C. (+/−5° C.) over ˜1 h. The resulting solution is stirred at 20° C. for 15 minutes, extracted with ethyl acetate (10 vols, 450 ml), the organic layer is washed with water (2×3 vols, 2×135 ml) and filtered through a porosity 4 sinter. The organic layer is then evaporated under reduced pressure (45° C., 100 mbar) to 2 to 3 volumes, dimethyl sulphoxide (10 vols, 450 ml) is added and the solution evaporated under reduced pressure (45° C., 50 mbar) to remove all traces of other solvents. To the solution at 45° C. is added water (5 vols, 225 ml) dropwise over 30 minutes, the resulting reaction mixture is cooled to 20° C. over 3 hr and stirred at 20° C. for at least 15 hrs. The product is filtered, washed with a solution of dimethylsulphoxide:water (1:2) (2 vols, 90 ml), then washed with water (3 vols, 135 ml), then dried under high vacuum at 60° C. (±3° C.) to constant probe temperature to afford (2-(6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methanol as a beige solid.

reactant | ethyl oxazole-5-carboxylate | 18.1 g, 1.1 eq | O1C=NC=C1C(=O)OCC | C6H7NO3
reactant | 6-chloro-4-iodo-1-(phenylsulfonyl)-1H-indazole | 45.0 g, 1.0 eq | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)I | C13H8ClIN2O2S
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 288 ml, 4.0 eq | C1(=CC=CC=C1)C | C7H8
reactant | citric acid | 90 g, 4.0 eq | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
solvent | water | 450 ml | O | H2O
catalyst | Zinc chloride | 52.7 g, 3.6 eq | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 193 ml, 1.80 eq | O1CCCC1 | C4H8O
product | (2-(6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methanol | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CO | C17H12ClN3O4S
